US08791236B2
Preparation of 1,16-Hexadecanedioic Acid Mono Benzyl Ester
Hexadecanedioic acid (20.0 g, 69.8 mmol) and DowexR were suspended in n-octane and heated to reflux. Benzyl formate (22.0 g, 162 mmol) was added. After 6 hours additional benzyl formate (22.0 g, 162 mmol) was added. The heating was continued for 50 hours. The reaction mixture was filtered at 80° C. The filtrate was cooled to 20° C., and the precipitate was collected by filtration. The crude product (20.2 g) was suspended in dichloromethane (220 ml) at 20° C. for 4 hours. The suspension was filtered, and the filtrate was evacuated to dryness at 20-30° C. The resulting solid (13.9 g) was recrystallised from 2-propanol (140 ml). The product was isolated by filtration, and dried to constant weight under reduced pressure at 30-40° C. Yield: 10.2 g (39%) of white material.

reactant | Hexadecanedioic acid | 69.8 mmol, 20.0 g | C(CCCCCCCCCCCCCCC(=O)O)(=O)O | C16H30O4
reactant | Benzyl formate | 162 mmol, 22.0 g | C(=O)OCC1=CC=CC=C1 | C8H8O2
reactant | benzyl formate | 162 mmol, 22.0 g | C(=O)OCC1=CC=CC=C1 | C8H8O2
solvent | n-octane | CCCCCCCC | C8H18
product | 1,16-Hexadecanedioic Acid Mono Benzyl Ester | C(C1=CC=CC=C1)OC(CCCCCCCCCCCCCCC(=O)O)=O | C23H36O4
